US07968540B2
Step G. tert-Butyl (7-methyl-6-oxo-2a,3,4,5,6,7-hexahydroazocino[4,3,2-cd]indol-1(2H)-yl)acetic acid, enantiomer A
To a solution of tert-butyl (6-oxo-2a,3,4,5,6,7-hexahydroazocino[4,3,2-cd]indol-1(2H)-yl)acetate, enantiomer A, from Step F (20 mg, 0.063 mmol) in DMF (0.5 mL) at ambient temperature was added sodium hydride (3 mg of a 60% dispersion in mineral oil, 0.075 mmol). The reaction mixture was stirred for 5 min, then iodomethane (10 mg, 0.070 mmol) was added and stirring was continued for 10 min. The reaction was quenched with saturated aqueous NaHCO3 (1 mL) and extracted with EtOAc (2×3 mL). The combined organic extracts were dried over Na2SO4, filtered, and concentrated in vacuo to give the title compound. MS: m/z=331 (M+1).

reactant | tert-butyl (6-oxo-2a,3,4,5,6,7-hexahydroazocino[4,3,2-cd]indol-1(2H)-yl)acetate | O=C1CCCC2CN(C=3C=CC=C(C23)N1)CC(=O)OC(C)(C)C | C18H24N2O3
reactant | sodium hydride | [H-].[Na+]
reactant | iodomethane | 0.070 mmol, 10 mg | IC | CH3I
reactant | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | tert-Butyl (7-methyl-6-oxo-2a,3,4,5,6,7-hexahydroazocino[4,3,2-cd]indol-1(2H)-yl)acetic acid | C(C)(C)(C)C(C(=O)O)N1CC2C=3C(=CC=CC13)N(C(CCC2)=O)C | C19H26N2O3
